US07507740B2
(ii) Production of (4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}phenyl)methanol
{4-[(4-Chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]phenyl}methanol (354 mg) and 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (488 mg) were dissolved in 1-methyl-2-pyrrolidone (2.58 mL), and the mixture was stirred with heating at 140° C. for 2 hrs. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (80 mL) and partitioned with saturated aqueous sodium hydrogen carbonate (30 mL). The organic layer washed with saturated brine (30 mL), dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→0:100) to give the title compound (588 mg) as a powder.

reactant | {4-[(4-Chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]phenyl}methanol | 354 mg | ClC=1C2=C(N=CN1)C=CN2CC2=CC=C(C=C2)CO | C14H12ClN3O
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 488 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 2.58 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}phenyl)methanol | 588 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C=C2)CO | C27H22ClFN4O2
